US08466176B2
A stirred solution of tert-butyl {4-[({[(1-methyl-1H-tetrazol-5-yl)(phenyl)methylene]amino}oxy)methyl]-1,3-thiazol-2-yl}carbamate (0.185 g, 0.445 mmol, 1 eq.) in 3 ml of dry DMF was treated with NaH (60% dispn in mineral oil, 0.019 g, 0.49 mmol, 1.1 eq.) added in one portion. After 20 mins (2-bromoethyl)cyclohexane (0.096 g, 0.49 mmol, 1.1 eq.) was added and the reaction was stirred for 1 hr. Then TFA (1.48 g, 12.98 mmol, 30 eq.) was added carefully and the reaction was heated to 60° C. for 12 h. After cooling, sat. aqueous Na2CO3 was added followed by DCM. The layers were separated and the aqueous layer was extracted with DCM. The organics were combined, washed with sat. aqueous Na2CO3, dried over MgSO4 and concentrated. The crude was purified by chromatography on silica gel to give N-(2-cyclohexylethyl)-4-[({[(1-methyl-1H-tetrazol-5-yl)(phenyl)methylene]amino}oxy)methyl]-1,3-thiazol-2-amine (0.144 g, 76% yield) as a clear viscous oil.

reactant | tert-butyl {4-[({[(1-methyl-1H-tetrazol-5-yl)(phenyl)methylene]amino}oxy)methyl]-1,3-thiazol-2-yl}carbamate | 0.445 mmol, 0.185 g, 1 eq. | CN1N=NN=C1C(C1=CC=CC=C1)=NOCC=1N=C(SC1)NC(OC(C)(C)C)=O | C18H21N7O3S
reactant | NaH | 0.49 mmol, 0.019 g, 1.1 eq. | [H-].[Na+]
reactant | (2-bromoethyl)cyclohexane | 0.49 mmol, 0.096 g, 1.1 eq. | BrCCC1CCCCC1 | C8H15Br
reactant | TFA | 12.98 mmol, 1.48 g, 30 eq. | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-(2-cyclohexylethyl)-4-[({[(1-methyl-1H-tetrazol-5-yl)(phenyl)methylene]amino}oxy)methyl]-1,3-thiazol-2-amine | 0.144 g, 76% yield | C1(CCCCC1)CCNC=1SC=C(N1)CON=C(C1=CC=CC=C1)C1=NN=NN1C | C21H27N7OS
